US04211875
84 parts of 4-methyl-5-chloromethyl-imidazole hydrochloride, in the form of a fine powder, and 57 parts of cysteamine hydrochloride, also in the form of a fine powder, are mixed intimately and the mixture is heated in a solidstate reactor for 2 hours at 80° and then for 7 hours at 100°; the progress of the reaction can be followed by NMR spectroscopy or from the evolution of hydrogen chloride. 120 parts (98%) of 4-methyl-5-[(2-amino-ethyl)-thiomethyl]-imidazole dihydrochloride are obtained; the substance melts at 186°-189° C., after first sintering at about 181° C. A single recrystallization of the product from ethanol raises the melting point to 193°-195° C.

reactant | 4-methyl-5-chloromethyl-imidazole hydrochloride | Cl.CC=1N=CNC1CCl
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | hydrogen chloride | Cl | ClH
product | 4-methyl-5-[(2-amino-ethyl)-thiomethyl]-imidazole dihydrochloride | 98% | Cl.Cl.CC=1N=CNC1CSCCN | InChI=1S/C7H13N3S.2ClH/c1-6-7(10-5-9-6)4-11-3-2-8;;/h5H,2-4,8H2,1H3,(H,9,10);2*1H
